US09278968B2
To a mixture of 153 mg of potassium carbonate and 5 ml of DMF was added dropwise a solution of 346 mg of N-[1-{[tert-butyl (diphenyl)silyl]oxy}-2-(2H-tetrazol-5-yl)propan-2-yl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide and 158 mg of sodium chloro(difluoro)acetate in 3 ml of DMF at an inner temperature of 95° C., followed by stirring at the same temperature for 1 hour. After leaving to be cooled to room temperature, water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. To the obtained crude product were added ethyl acetate and diisopropyl ether, and the insoluble materials were collected by filtration and dried under reduced pressure to obtain 98 mg of 8-[(2,6-difluorobenzyl)oxy]-N-{2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1-hydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | potassium carbonate | 153 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-[1-{[tert-butyl (diphenyl)silyl]oxy}-2-(2H-tetrazol-5-yl)propan-2-yl]-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 346 mg | C(C)(C)(C)[Si](OCC(C)(C=1N=NNN1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H37F2N7O3Si
reactant | sodium chloro(difluoro)acetate | 158 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 8-[(2,6-difluorobenzyl)oxy]-N-{2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1-hydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 98 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C=3N=NN(N3)C(F)F)C(=CC=C1)F | C21H19F4N7O3
